US04888439
N-(2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoyl)ethylamine
Starting materials: 2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoic acid and a 70% aqueous ethylamine solution

reactant | 2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C | C23H36O3
reactant | ethylamine | C(C)N | C2H7N
product | N-(2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoyl)ethylamine | CC(C(=O)NCC)=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C | C25H41NO2
